US05236884
Triethylamine (57.35 g, 566 mmol) was added to a stirred solution of N-[2-chloro-4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline prepared as above (155.9 g, 483 mmol) and phenol (49.9 g, 530 mmol) in dry acetonitrile (1.3 L) under argon. After the addition had been completed, the mixture was heated at reflux for 7 hours. The reaction mixture was then cooled and the solvent was removed under reduced pressure. The residue was dissolved in methanol (300 mL) and allowed to stir at room temperature until crystallization began. After 2 hours, the mixture was cooled in an ice bath for a further 1 hour. The product was removed by filtration, washed with cold methanol, and dried to afford N-[4,4-dimethyl-3-oxo-2-phenoxypentanoyl]-2,4-dichloroaniline (99 g, 54% yield) as a white crystalline solid which melted at 112°-113.5° C. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Triethylamine | 566 mmol, 57.35 g | C(C)N(CC)CC | C6H15N
reactant | N-[2-chloro-4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | ClC(C(=O)NC1=C(C=C(C=C1)Cl)Cl)C(C(C)(C)C)=O | C13H14Cl3NO2
reactant | phenol | 530 mmol, 49.9 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetonitrile | 1.3 L | C(C)#N | C2H3N
product | N-[4,4-dimethyl-3-oxo-2-phenoxypentanoyl]-2,4-dichloroaniline | 99 g, 54% yield | CC(C(C(C(=O)NC1=C(C=C(C=C1)Cl)Cl)OC1=CC=CC=C1)=O)(C)C | C19H19Cl2NO3
